US04536499
A mixture of 22.8 g (0.05 mole) of [[2-(5-methyl-3-phenyl-4-isoxazolyl)-1H-indol-3-yl]methyl]propanedioic acid, diethyl ester and 150 ml of 12N hydrochloric acid is refluxed for 65 hours. The mixture is cooled and extracted with ether. The ether is washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated. The solid residue is then decolorized with charcoal and recrystallized from ether hexane to give 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionic acid m.p. 170° to 172° C.

reactant | [[2-(5-methyl-3-phenyl-4-isoxazolyl)-1H-indol-3-yl]methyl]propanedioic acid, diethyl ester | 0.05 mole, 22.8 g | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CC(C(=O)OCC)C(=O)OCC | C26H26N2O5
solvent | hydrochloric acid | 12N, 150 ml | Cl | ClH
product | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionic acid | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCC(=O)O | C21H18N2O3
